* simple circuits as subckts
.lib circuits_LVL_14
.param N=1
.param mos_Length = 50n
.model nmos nmos level=14 version=4.8.2
.model pmos pmos level=14 version=4.8.2

*******************************************************************************
** LOGIC GATES                                                               **
*******************************************************************************
.subckt inv in out mval=N Lval=mos_Length
  M1 out in vdd vdd pmos L={Lval} W={2 * Lval} m={mval}
  M2 out in gnd gnd nmos L={Lval} W={2 * Lval} m={mval}
.ends inv

.subckt buf in out mval=N Lval=mos_Length
  X0 in     in_bar inv mval={mval} Lval={Lval}
  X1 in_bar out    inv mval={mval} Lval={Lval}
.ends buf

.subckt nand2 in1 in2 out mval=N Lval=mos_Length
  * PUN
  M1 out in1 vdd vdd pmos L={Lval} W={2 * Lval} m={mval}
  M2 out in2 vdd vdd pmos L={Lval} W={2 * Lval} m={mval}
  * PDN
  M3 out in1 tmp gnd nmos L={Lval} W={2 * Lval} m={mval}
  M4 tmp in2 gnd gnd nmos L={Lval} W={2 * Lval} m={mval}
.ends nand2

.subckt nand3 in1 in2 in3 out mval=N Lval=mos_Length
  * PUN
  M1 out in1 vdd vdd pmos L={Lval} W={2 * Lval} m={mval}
  M2 out in2 vdd vdd pmos L={Lval} W={2 * Lval} m={mval}
  M3 out in3 vdd vdd pmos L={Lval} W={2 * Lval} m={mval}
  * PDN
  M4 out  in1 tmp  gnd nmos L={Lval} W={2 * Lval} m={mval}
  M5 tmp  in2 tmp2 gnd nmos L={Lval} W={2 * Lval} m={mval}
  M6 tmp2 in3 gnd  gnd nmos L={Lval} W={2 * Lval} m={mval}
.ends nand3

.subckt nor2 in1 in2 out mval=N Lval=mos_Length
  * PUN
  M1 out in1 tmp vdd pmos L={Lval} W={2 * Lval} m={mval}
  M2 tmp in2 vdd vdd pmos L={Lval} W={2 * Lval} m={mval}
  * PDN
  M3 out in1 gnd gnd nmos L={Lval} W={2 * Lval} m={mval}
  M4 out in2 gnd gnd nmos L={Lval} W={2 * Lval} m={mval}
.ends nor2

.subckt nor3 in1 in2 in3 out mval=N Lval=mos_Length
  * PUN
  M1 out  in1 tmp  vdd pmos L={Lval} W={2 * Lval} m={mval}
  M2 tmp  in2 tmp2 vdd pmos L={Lval} W={2 * Lval} m={mval}
  M3 tmp2 in3 vdd  vdd pmos L={Lval} W={2 * Lval} m={mval}
  * PDN
  M4 out in1 gnd gnd nmos L={Lval} W={2 * Lval} m={mval}
  M5 out in2 gnd gnd nmos L={Lval} W={2 * Lval} m={mval}
  M6 out in3 gnd gnd nmos L={Lval} W={2 * Lval} m={mval}
.ends nor3

.subckt xor2_nand A B Q mval=N Lval=mos_Length
  X1 A B AB_bar nand2 mval={mval} Lval={Lval}
  X2 A AB_bar tmp1 nand2 mval={mval} Lval={Lval}
  X3 B AB_bar tmp2 nand2 mval={mval} Lval={Lval}
  X4 tmp1 tmp2 Q nand2 mval={mval} Lval={Lval}
.ends xor2_nand

.subckt xor2_nor A B Q mval=N Lval=mos_Length
  X1 A B Q1 nor2 mval={mval} Lval={Lval}
  X2 A Q1 Q2 nor2 mval={mval} Lval={Lval}
  X3 B Q1 Q3 nor2 mval={mval} Lval={Lval}
  X4 Q3 Q2 Q4 nor2 mval={mval} Lval={Lval}
  X5 Q4 Q4 Q nor2 mval={mval} Lval={Lval}
.ends xor2_nor

.subckt xor2_tran A A_bar B B_bar Q mval=N Lval=mos_Length
  * PUN
  M1 vdd  A     tmp0 vdd pmos L={Lval} W={2 * Lval} m={mval}
  M2 vdd  B     tmp0 vdd pmos L={Lval} W={2 * Lval} m={mval}
  M3 tmp0 A_bar Q    vdd pmos L={Lval} W={2 * Lval} m={mval}
  M4 tmp0 B_bar Q    vdd pmos L={Lval} W={2 * Lval} m={mval}
  * PDN
  M5 Q    A     tmp1 gnd nmos L={Lval} W={2 * Lval} m={mval}
  M6 tmp1 B     gnd  gnd nmos L={Lval} W={2 * Lval} m={mval}
  M7 Q    A_bar tmp2 gnd nmos L={Lval} W={2 * Lval} m={mval}
  M8 tmp2 B_bar gnd  gnd nmos L={Lval} W={2 * Lval} m={mval}
.ends xor2_tran

.subckt xor2_tran_opt A A_bar B B_bar Q mval=N Lval=mos_Length
  * PUN
  M1 vdd  A     tmp1 vdd pmos L={Lval} W={2 * Lval} m={mval}
  M2 tmp1 B_bar Q    vdd pmos L={Lval} W={2 * Lval} m={mval}
  M3 vdd  A_bar tmp2 vdd pmos L={Lval} W={2 * Lval} m={mval}
  M4 tmp2 B     Q    vdd pmos L={Lval} W={2 * Lval} m={mval}
  * PDN
  M5 Q    A     tmp3 gnd nmos L={Lval} W={2 * Lval} m={mval}
  M6 tmp3 B     gnd  gnd nmos L={Lval} W={2 * Lval} m={mval}
  M7 Q    A_bar tmp4 gnd nmos L={Lval} W={2 * Lval} m={mval}
  M8 tmp4 B_bar gnd  gnd nmos L={Lval} W={2 * Lval} m={mval}
.ends xor2_tran_opt

.subckt MUX21 a b s q mval=N Lval=mos_Length
  Xinv s s_bar inv mval={mval} Lval={Lval}
  X0   a q s_bar s tg mval={mval} Lval={Lval}
  X1   b q s s_bar tg mval={mval} Lval={Lval}
.ends

.subckt XOR3 a b c q mval=N Lval=mos_Length
  .subckt serialp3 a b c top bot body mval={mval} Lval={Lval}
    Mpt top  a  tmp1 body pmos L={Lval} W={2 * Lval} m={mval}
    Mpm tmp1 b  tmp2 body pmos L={Lval} W={2 * Lval} m={mval}
    Mpb tmp2 c  bot  body pmos L={Lval} W={2 * Lval} m={mval}
  .ends

  .subckt paralleln3 a b c top bot body mval={mval} Lval={Lval}
    Mpt top a bot body nmos L={Lval} W={2 * Lval} m={mval}
    Mpm top b bot body nmos L={Lval} W={2 * Lval} m={mval}
    Mpb top c bot body nmos L={Lval} W={2 * Lval} m={mval}
  .ends

  * INPUT INVERTERS
  Xinv0 a  a_bar                     inv mval={mval} Lval={Lval}
  Xinv1 b  b_bar                     inv mval={mval} Lval={Lval}
  Xinv2 c  c_bar                     inv mval={mval} Lval={Lval}
  * PUN
  X0 a     b     c_bar vdd  q    vdd serialp3
  X1 a     b_bar c     vdd  q    vdd serialp3
  X2 a_bar b     c     vdd  q    vdd serialp3
  X3 a_bar b_bar c_bar vdd  q    vdd serialp3
  * PDN
  X4 a     b     c_bar q    tmp1 gnd paralleln3
  X5 a     b_bar c     tmp1 tmp2 gnd paralleln3
  X6 a_bar b     c     tmp2 tmp3 gnd paralleln3
  X7 a_bar b_bar c_bar tmp3 gnd  gnd paralleln3
.ends

.subckt tg in out en nen mval=N Lval=mos_Length
  M1 in nen out vdd pmos L={Lval} W={2 * Lval} m={mval}
  M2 in en  out gnd nmos L={Lval} W={2 * Lval} m={mval}
.ends tg

*******************************************************************************
** LATCHES                                                                   **
*******************************************************************************
.subckt d_latch d en nen q q_bar mval=N Lval=mos_Length
  X0 d     q     en  nen tg  mval={mval} Lval={Lval}
  X1 q     q_bar         inv mval={mval} Lval={Lval}
  X2 q_bar q2            inv mval={mval} Lval={Lval}
  X3 q2    q     nen en  tg  mval={mval} Lval={Lval}
.ends d_latch

.subckt d_latch_alt1 d s en nen q q_bar mval=N Lval=mos_Length
  X0 d     q     en  nen tg  mval={mval} Lval={Lval}
  X1 q     q_bar         inv mval={mval} Lval={Lval}
  X2 s q_bar q2          nand2 mval={mval} Lval={Lval}
  X3 q2    q     nen en  tg  mval={mval} Lval={Lval}
.ends d_latch_alt1

.subckt d_latch_alt3 d r en nen q q_bar mval=N Lval=mos_Length
  X0 d     q     en  nen tg  mval={mval} Lval={Lval}
  X1 q     q_bar         inv mval={mval} Lval={Lval}
  X2 r q_bar q2          nor2 mval={mval} Lval={Lval}
  X3 q2    q     nen en  tg  mval={mval} Lval={Lval}
.ends d_latch_alt3

.subckt d_latch_alt2 d s en nen q q_bar mval=N Lval=mos_Length
  X0 d  q  en  nen       tg mval={mval} Lval={Lval}
  X1 s q   q_bar         nand2 mval={mval} Lval={Lval}
  X2 q_bar q2            inv mval={mval} Lval={Lval}
  X3 q2    q     nen en  tg  mval={mval} Lval={Lval}
.ends d_latch_alt2

.subckt d_latch_alt4 d r en nen q q_bar mval=N Lval=mos_Length
  X0 d  q  en  nen       tg mval={mval} Lval={Lval}
  X1 r q   q_bar         nor2 mval={mval} Lval={Lval}
  X2 q_bar q2            inv mval={mval} Lval={Lval}
  X3 q2    q     nen en  tg  mval={mval} Lval={Lval}
.ends d_latch_alt4

.subckt d_latch_with_async_reset_active_low d r en nen q q_bar mval=N Lval=mos_Length
  X0 d r norq nand2       mval={mval} Lval={Lval}
  X1 norq q en nen tg     mval={mval} Lval={Lval}
  X2 q q_bar inv          mval={mval} Lval={Lval}
  X3 q_bar r norq2 nand2  mval={mval} Lval={Lval}
  X4 norq2 q nen en tg    mval={mval} Lval={Lval}
.ends d_latch_with_async_reset_active_low

.subckt d_latch_with_async_set_active_high d s en nen q q_bar mval=N Lval=mos_Length
  X0 d s norq nor2        mval={mval} Lval={Lval}
  X1 norq q en nen tg     mval={mval} Lval={Lval}
  X2 q q_bar inv          mval={mval} Lval={Lval}
  X3 q_bar s norq2 nor2   mval={mval} Lval={Lval}
  X4 norq2 q nen en tg    mval={mval} Lval={Lval}
.ends d_latch_with_async_set_active_high

.subckt d_latch_async_ctrl_active_high d q q_bar en nen ctrl z mval=N Lval=mos_Length
  * z- if 1 then SET, 0 - RESET
  Xmux0 d z ctrl mux0out mux21 mval={mval} Lval={Lval}
  Xtg0  mux0out q en nen tg mval={mval} Lval={Lval}
  Xinv0 q q_bar inv mval={mval} Lval={Lval}
  Xinv1 q_bar tmp inv mval={mval} Lval={Lval}
  Xmux1 tmp z ctrl mux1out mux21 mval={mval} Lval={Lval}
  Xtg1  mux1out q nen en tg mval={mval} Lval={Lval}
.ends

.subckt d_latch_async_ctrl_active_low d q q_bar en nen ctrl z mval=N Lval=mos_Length
  * z- if 1 then SET, 0 - RESET
  Xmux0 z d ctrl mux0out mux21 mval={mval} Lval={Lval}
  Xtg0  mux0out q en nen tg mval={mval} Lval={Lval}
  Xinv0 q q_bar inv mval={mval} Lval={Lval}
  Xinv1 q_bar tmp inv mval={mval} Lval={Lval}
  Xmux1 z tmp ctrl mux1out mux21 mval={mval} Lval={Lval}
  Xtg1  mux1out q nen en tg mval={mval} Lval={Lval}
.ends

*******************************************************************************
** FLIP FLOPS                                                                **
*******************************************************************************
.subckt dffr d en nen q mval=N Lval=mos_Length
  * Master (active low)
  X_master d nen en mq mq_bar d_latch mval={mval} Lval={Lval}
  * Slave (active high)
  X_slave mq_bar en nen sq q d_latch mval={mval} Lval={Lval}
.ends dffr

.subckt dfff d en nen q mval=N Lval=mos_Length
  * Master (active high)
  X_master d en nen mq mq_bar d_latch mval={mval} Lval={Lval}
  * Slave (active low)
  X_slave mq_bar nen en sq q d_latch mval={mval} Lval={Lval}
.ends dfff

* LOW SET
.subckt dffrls d s en nen q mval=N Lval=mos_Length
  * Master (active low)
  X_master d s nen en mq mq_bar d_latch_alt1 mval={mval} Lval={Lval}
  * Slave (active high)
  X_slave mq_bar s en nen sq q d_latch_alt2 mval={mval} Lval={Lval}
.ends dffrls

.subckt dfffls d s en nen q mval=N Lval=mos_Length
  * Master (active high)
  X_master d s en nen mq mq_bar d_latch_alt1 mval={mval} Lval={Lval}
  * Slave (active low)
  X_slave mq_bar s nen en sq q d_latch_alt2 mval={mval} Lval={Lval}
.ends dfffls

* HIGH RESET
.subckt dffrhr d r en nen q mval=N Lval=mos_Length
  * Master (active low)
  X_master d r nen en mq mq_bar d_latch_alt3 mval={mval} Lval={Lval}
  * Slave (active high)
  X_slave mq_bar r en nen sq q d_latch_alt4 mval={mval} Lval={Lval}
.ends dffrhr

.subckt dfffhr d r en nen q mval=N Lval=mos_Length
  * Master (active high)
  X_master d r en nen mq mq_bar d_latch_alt3 mval={mval} Lval={Lval}
  * Slave (active low)
  X_slave mq_bar r nen en sq q d_latch_alt4 mval={mval} Lval={Lval}
.ends dfffhr

.endl